US07417060B2
To a solution of 4-bromo-2-(isopropylthio)benzoic acid (47.90 g) in N,N-dimethylformamide (480 ml) was added 1,1′-carbonyldiimidazole (31.00 g) and stirred for 30 minutes at room temperature under nitrogen atmosphere. To the mixture were added methanesulfonamide (18.17 g) and 1,8-diazabicyclo[5.4.0]-7-undecene (39.10 ml) and then stirred at room temperature overnight. The reaction mixture was poured into hydrochloric acid aqueous solution (1N, 2 l) and extracted with ethyl acetate (2 l). The separated organic layer was washed with water (2 l) and brine (2 l), dried over magnesium sulfate and concentrated in vacuo. Then the residue was dried to give 4-bromo-2-(isopropylthio)-N-(methylsulfonyl)benzamide (60.00 g) as a white solid.

reactant | 4-bromo-2-(isopropylthio)benzoic acid | 47.90 g | BrC1=CC(=C(C(=O)O)C=C1)SC(C)C | C10H11BrO2S
reactant | 1,1′-carbonyldiimidazole | 31.00 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methanesulfonamide | 18.17 g | CS(=O)(=O)N | CH5NO2S
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 39.10 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | 1N, 2 l | Cl | ClH
solvent | N,N-dimethylformamide | 480 ml | CN(C=O)C | C3H7NO
product | 4-bromo-2-(isopropylthio)-N-(methylsulfonyl)benzamide | 60.00 g | BrC1=CC(=C(C(=O)NS(=O)(=O)C)C=C1)SC(C)C | C11H14BrNO3S2
